US08071592B2
(h) Racemic 1,1-dimethylethyl ({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-oxo-3-piperidinyl}methyl)carbamate
To a solution of racemic 1,1-dimethylethyl ({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate (2.0 g, 4.76 mmol) in dry dichloromethane (120 mL) was added Dess-Martin periodinane (1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one, 3.03 g, 7.12 mmol) in portions over 5 min. The mixture was stirred for 1 h, then 10% aqueous sodium sulphite (70 mL) and aqueous sodium bicarbonate (60 mL) were added and stirring continued for 0.5 h. The phases were separated and the aqueous phase was extracted twice with dichloromethane. The organic fractions were dried and evaporated and the residue was chromatographed on silica, eluting with 50-100% ethyl acetate/hexane, to give the product (1.35 g, 68%).

reactant | racemic 1,1-dimethylethyl ({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate | 4.76 mmol, 2.0 g | FC1=CC=C2N=CC(N(C2=C1)CCN1CC(C(CC1)O)CNC(OC(C)(C)C)=O)=O | C21H29FN4O4
reactant | Dess-Martin periodinane | 7.12 mmol, 3.03 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium sulphite | 70 mL | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | Racemic 1,1-dimethylethyl ({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-oxo-3-piperidinyl}methyl)carbamate | 1.35 g, 68% | FC1=CC=C2N=CC(N(C2=C1)CCN1CC(C(CC1)=O)CNC(OC(C)(C)C)=O)=O | C21H27FN4O4
